data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:4]1([P:37]([c:5]2[cH:19][cH:25][c:41]([N:14]([CH3:33])[CH3:34])[cH:26][cH:20]2)[c:6]2[cH:21][cH:27][c:42]([N:15]([CH3:35])[CH3:36])[cH:28][cH:22]2)[cH:18][cH:24][c:40]([N:13]([CH3:31])[CH3:32])[cH:29][cH:23]1.[n:1]1[n:2][c:39]2[n:8]([cH:10][c:38]([N+:7](=[O:3])[O-:17])[cH:16][c:11]2[N+:12](=[O:9])[O-:43])[n:30]1>>[n:1]1[n:2][c:39]2[n:8]([n:30]1)[CH:10]([P+:37]([c:4]1[cH:18][cH:24][c:40]([N:13]([CH3:31])[CH3:32])[cH:29][cH:23]1)([c:5]1[cH:19][cH:25][c:41]([N:14]([CH3:33])[CH3:34])[cH:26][cH:20]1)[c:6]1[cH:21][cH:27][c:42]([N:15]([CH3:35])[CH3:36])[cH:28][cH:22]1)[C:38](=[N+:7]([O-:3])[O-:17])[CH:16]=[C:11]2[N+:12](=[O:9])[O-:43]", "epd": [["LP-/Sigma+", [37], [37, 10]], ["Pi-/Pi+", [10, 38], [38, 7]], ["Pi-/LP+", [7, 3], [3]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH3:1][C:4]([CH3:2])=[N+:8]([O-:11])[O-:12].[cH:3]1[cH:5][cH:13][c:10]([N+:7](=[CH2:9])[CH3:15])[cH:14][cH:6]1>>[CH3:1][C:4]([CH3:2])([N+:8](=[O:11])[O-:12])[CH2:9][N:7]([c:10]1[cH:13][cH:5][cH:3][cH:6][cH:14]1)[CH3:15]", "epd": [["LP-/Pi+", [11], [8, 11]], ["Pi-/Sigma+", [4, 8], [4, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:3]=[S:17](=[O:4])([N:16]([S:15][C:11]([F:12])([F:13])[F:14])[S:18](=[O:5])(=[O:6])[c:37]1[cH:21][cH:32][cH:26][cH:33][cH:22]1)[c:36]1[cH:19][cH:30][cH:25][cH:31][cH:20]1.[cH:1]1[cH:27][cH:34][c:24]([B-:2]2([CH2:29][CH:23]=[CH2:40])[O:41][C:38]([CH3:7])([CH3:8])[C:39]([CH3:9])([CH3:10])[O:42]2)[cH:35][cH:28]1>>[O:3]=[S:17](=[O:4])([N-:16][S:18](=[O:5])(=[O:6])[c:37]1[cH:21][cH:32][cH:26][cH:33][cH:22]1)[c:36]1[cH:19][cH:30][cH:25][cH:31][cH:20]1.[cH:1]1[cH:27][cH:34][c:24]([B-:2]2([CH2:29][CH+:23][CH2:40][S:15][C:11]([F:12])([F:13])[F:14])[O:41][C:38]([CH3:7])([CH3:8])[C:39]([CH3:9])([CH3:10])[O:42]2)[cH:35][cH:28]1", "epd": [["Pi-/Sigma+", [40, 23], [40, 15]], ["Sigma-/LP+", [15, 16], [16]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[cH:8][cH:7][c:18]2[c:5]([cH:14]1)[CH2:29][CH:22]=[C:23]2[N:19]1[CH2:27][CH2:3][CH2:2][CH2:28]1.[cH:4]1[cH:13][cH:6][c:9]2[c:15]([o+:10][c:12](-[c:25]3[cH:20][cH:16][cH:26][cH:17][cH:21]3)[cH:11][cH:24]2)[cH:30]1>>[cH:1]1[cH:8][cH:7][c:18]2[c:5]([cH:14]1)[CH2:29][CH:22]([CH:24]1[c:9]3[cH:6][cH:13][cH:4][cH:30][c:15]3[O:10][C:12]([c:25]3[cH:20][cH:16][cH:26][cH:17][cH:21]3)=[CH:11]1)[C:23]2=[N+:19]1[CH2:27][CH2:3][CH2:2][CH2:28]1", "epd": [["LP-/Pi+", [19], [23, 19]], ["Pi-/Sigma+", [22, 23], [22, 24]], ["Pi-/Pi+", [24, 11], [11, 12]], ["Pi-/LP+", [12, 10], [10]]]}
{"reaction_name": "Pictet–Spengler cyclization", "rsmi": "[N:1]([H:16])([H:17])[CH2:2][CH2:3][c:4]1[c:5]([H:20])[nH:6][c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]12.[CH3:13][C:14]([H:18])=[O:15].[H+:19]>>[N:1]1([H:17])[CH2:2][CH2:3][c:4]2[c:5]([C:14]([H:18])([CH3:13])1)[nH:6][c:7]3[cH:8][cH:9][cH:10][cH:11][c:12]23.[O+:15]([H:16])([H:19])[H:20]", "epd": [["Sigma-/Sigma+", [5, 20], [5, 14]], ["Sigma-/LP+", [14, 15], [15]], ["LP-/Sigma+", [15], [15, 16]], ["Sigma-/LP+", [1, 16], [1]], ["LP-/Sigma+", [1], [1, 14]], ["Pi-/LP+", [14, 15], [15]], ["LP-/Sigma+", [15], [15, 19]], ["LP-/Sigma+", [15], [15, 20]]]}
{"reaction_name": "Phosphonium betaine formation", "rsmi": "[CH3:1][P+:8]([CH3:2])([CH3:3])[CH2-:6].[O:4]=[CH:7][CH3:5]>>[CH3:1][P+:8]([CH3:2])([CH3:3])[CH2:6][CH:7]([O-:4])[CH3:5]", "epd": [["LP-/Sigma+", [6], [6, 7]], ["Pi-/LP+", [4, 7], [4]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[N:2]([CH3:10])([CH3:11])[CH3:12].[c:1]1([N:13]=[C:4]=[S:7])[cH:15][cH:8][c:5]([N+:14](=[O:3])[O-:6])[cH:9][cH:16]1>>[c:1]1([N:13]=[C:4]([N+:2]([CH3:10])([CH3:11])[CH3:12])[S-:7])[cH:15][cH:8][c:5]([N+:14](=[O:3])[O-:6])[cH:9][cH:16]1", "epd": [["LP-/Sigma+", [2], [2, 4]], ["Pi-/LP+", [4, 7], [7]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:18])([O:25][CH2:3][c:15]1[cH:20][cH:6][cH:11][cH:9][cH:23]1)[N:28]=[N:27][C:2](=[O:19])[O:26][CH2:4][c:16]1[cH:21][cH:7][cH:12][cH:8][cH:22]1.[cH:5]1[cH:13][c:14]2[c:31]([cH:24][cH:32]1)[CH:30]=[CH:10][CH:29]2[Li:17]>>[C:1]([O-:18])([O:25][CH2:3][c:15]1[cH:20][cH:6][cH:11][cH:9][cH:23]1)=[N:28][N:27]([C:2](=[O:19])[O:26][CH2:4][c:16]1[cH:21][cH:7][cH:12][cH:8][cH:22]1)[CH:29]1[CH:10]=[CH:30][c:31]2[c:14]1[cH:13][cH:5][cH:32][cH:24]2.[Li+:17]", "epd": [["Sigma-/Sigma+", [29, 17], [29, 27]], ["Pi-/Pi+", [27, 28], [28, 1]], ["Pi-/LP+", [1, 18], [18]]]}
